US07576102B2
4-(4-Phenoxy-phenoxy)-piperidine hydrochloride salt:
To a solution of t-butyl-4-hydroxy-1-piperidine carboxylate (1.0 g, 5.0 mmol) in anhydrous THF (5 mL) was added 4-phenoxyphenol (1.21 g, 6.5 mmol) in THF (5 mL) and triphenyl phosphine (1.57 g, 6 mmol) in THF (5 mL). The resulting mixture was cooled to 0° C. using ice-water bath and purged with nitrogen. Diisopropyl azodicarboxylate (1.21 g, 6 mmol) was dissolved in 5 mL of THF and added to above solution drop wise over period of 20 min under nitrogen. Reaction then was heated at rt for 3 h and 70° C. for 48 h. THF was removed in vacuo and crude mixture was purified by silica gel flash chromatography (10% EtOAc/Hexane) to obtain the product. To a solution of the product in dioxane (4 mL) was added 4M HCl in dioxane (10 mL) at rt and the resulting mixture was stirred for 3 h at that temperature. The solvent was removed in vacuo and residue was triturated with ether to obtain a white crystalline solid (918 mg, 68%): MS; m/z 270.5 (M+H); 1H NMR (400 MHz, DMSO-d6); δ 1.81-1.87 (m, 2H), 2.07-2.12 (m, 2H), 3.02-3.08 (m, 2H), 3.19-3.25 (m, 2H), 3.56 (s, 1H), 4.57-4.61 (m, 1H), 6.92-7.10 (m, 7H), 7.33-7.37 (m, 2H), 8.91 (s, 2H); HPLC (UV); 96%. Elemental analysis. Calc C 66.77 H 6.59 N 4.58. Found C 65.82 H 6.70 N 4.77.

reactant | t-butyl-4-hydroxy-1-piperidine carboxylate | 5.0 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4-phenoxyphenol | 6.5 mmol, 1.21 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | triphenyl phosphine | 6 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 6 mmol, 1.21 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 4M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(4-Phenoxy-phenoxy)-piperidine hydrochloride salt | 918 mg, 68% | Cl.O(C1=CC=CC=C1)C1=CC=C(OC2CCNCC2)C=C1 | InChI=1S/C17H19NO2.ClH/c1-2-4-14(5-3-1)19-15-6-8-16(9-7-15)20-17-10-12-18-13-11-17;/h1-9,17-18H,10-13H2;1H
